US04778802
N-[[[1-(6-Fluoro-2-naphthalenylmethyl)-4-piperidinyl]amino]carbonyl]-6-quinoline carboxamide
A mixture of 6-quinolinoyl chloride (4.77 g, 22 mmol), N-[[(6-fluoro-2-naphthalenyl)methyl]-4-piperidinyl]urea (6.02 g, 20 mmol), dry pyridine (2.5 ml) and 1,2-dichloroethane (30 ml) is stirred at reflux for 18 hours. The solution is then cooled, washed with aqueous sodium carbonate solution, dried and evaporated. The residue is crystallised from ethanol to give the title compound, mp 200°-201° C. (softens, maleate salt).

reactant | 6-quinolinoyl chloride | 22 mmol, 4.77 g | N1=CC=CC2=CC(=CC=C12)C(=O)Cl | C10H6ClNO
reactant | N-[[(6-fluoro-2-naphthalenyl)methyl]-4-piperidinyl]urea | 20 mmol, 6.02 g | FC=1C=C2C=CC(=CC2=CC1)CN1CCC(CC1)NC(=O)N | C17H20FN3O
reactant | pyridine | 2.5 ml | N1=CC=CC=C1 | C5H5N
solvent | 1,2-dichloroethane | 30 ml | ClCCCl | C2H4Cl2
product | N-[[[1-(6-Fluoro-2-naphthalenylmethyl)-4-piperidinyl]amino]carbonyl]-6-quinoline carboxamide | FC=1C=C2C=CC(=CC2=CC1)CN1CCC(CC1)NC(=O)NC(=O)C=1C=C2C=CC=NC2=CC1 | C27H25FN4O2
